US07820699B2
75.1 Using general procedure E, rac-2-aminomethyl-1-N-tert-butoxycarbonyl-pyrrolidine was coupled with 5-chlorothiophene-2-carboxylic acid to give rac-2-{[(5-chloro-thiophene-2-carbonyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester. Brown oil. MS 345.0 ([M+H]+)

reactant | rac-2-aminomethyl-1-N-tert-butoxycarbonyl-pyrrolidine | NCC1N(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | 5-chlorothiophene-2-carboxylic acid | ClC1=CC=C(S1)C(=O)O | C5H3ClO2S
product | rac-2-{[(5-chloro-thiophene-2-carbonyl)-amino]-methyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)CNC(=O)C=1SC(=CC1)Cl | C15H21ClN2O3S
